US06489324B2
A solution of (2R,3S)-O-benzyl-2-tert-butoxycarbonylamino-3-[N-(2-methanesulfonyloxyethyl)-N-methanesulfonylamino]butanol (1.1 g) in dry THF (15 ml) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil, 80.1 mg) in dry THF (8 ml) at 4° C. over 15 minutes. The mixture was stirred at the same temperature for 3.5 hours and then poured into saturated aqueous NH4Cl solution. The mixture was extracted with AcOEt. The organic layer was washed with saturated aqueous NaCl solution, dried over MgSO4 and concentrated in vacuo. The residue was purified by SiO2 column chromatography (eluent: AcOEt in n-hexane 40% and 50%) to give 0.80 g of (2R,3S)-2-benzyloxymethyl-1-tert-butoxycarbonyl-4-methanesulfonyl-3-methylpiperazine as an oil.

reactant | (2R,3S)-O-benzyl-2-tert-butoxycarbonylamino-3-[N-(2-methanesulfonyloxyethyl)-N-methanesulfonylamino]butanol | 1.1 g | C(C1=CC=CC=C1)OC[C@@H]([C@H](C)N(S(=O)(=O)C)CCOS(=O)(=O)C)NC(=O)OC(C)(C)C | C20H34N2O8S2
reactant | sodium hydride | 80.1 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (2R,3S)-2-benzyloxymethyl-1-tert-butoxycarbonyl-4-methanesulfonyl-3-methylpiperazine | 0.80 g | C(C1=CC=CC=C1)OC[C@@H]1N(CCN([C@H]1C)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H30N2O5S
